US08445510B2
1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-fluoro-4-iodo-1H-pyrazole
A solution of 1-[4-(tert-butyl-dimethylsilanyloxy)-cyclohexyl]-4-iodo-1H-pyrazole (200.0 mg, 0.4922 mmol) in THF (2 mL, 20 mmol) was cooled to −78° C., and 1.5 M of LDA in cyclohexane (0.98 mL, 1.5 mmol) was added. After stirring for 30 min, N-fluoro-N-(phenylsulfonyl)benzenesulfonamide (620.8 mg, 1.969 mmol) was added slowly, and the mixture was stirred at −78° C. for 30 min. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was dry-loaded onto silica gel for column chromatography, eluting with 1% EtOAc/heptane. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a clear oil. MS (ES+): m/z=425.10 (100) [MH+]. HPLC: tR=2.22 min (polar—3 min, UPLC-ACQUITY).

reactant | 1-[4-(tert-butyl-dimethylsilanyloxy)-cyclohexyl]-4-iodo-1H-pyrazole | 0.4922 mmol, 200.0 mg | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1N=CC(=C1)I | C15H27IN2OSi
reactant | THF | 20 mmol, 2 mL | C1CCOC1 | C4H8O
reactant | LDA | 1.5 M | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 1.5 mmol, 0.98 mL | C1CCCCC1 | C6H12
reactant | N-fluoro-N-(phenylsulfonyl)benzenesulfonamide | 1.969 mmol, 620.8 mg | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-fluoro-4-iodo-1H-pyrazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1F)I | C15H26FIN2OSi
